US05804348
Preparation of N-(4-t-Butylbenzoyl)-4-(2-bromoethyl)benzenesulfonamide
A mixture of 26.41 g (0.10 mol) of 4-(2-bromoethyl)benzenesulfonamide, 19.67 g (0.10 mol) of 4-t-butylbenzoyl chloride and 160 ml of xylene was heated at reflux for 20 hrs. The hot solution was cooled and the solid which crystallized was collected, recrystallized from isopropanol collected, washed with ligroine and dried.

reactant | 4-(2-bromoethyl)benzenesulfonamide | 0.10 mol, 26.41 g | BrCCC1=CC=C(C=C1)S(=O)(=O)N | C8H10BrNO2S
reactant | 4-t-butylbenzoyl chloride | 0.10 mol, 19.67 g | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | xylene | 160 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-(4-t-Butylbenzoyl)-4-(2-bromoethyl)benzenesulfonamide | C(C)(C)(C)C1=CC=C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)CCBr)C=C1 | C19H22BrNO3S
